US09340546B2
3-bromo-4-isothiocyanato-pyridine (1 g, 4.650 mmol) and acetylhydrazine (344.5 mg, 4.650 mmol) were dissolved in dry 1,4-dioxane (10 mL) and stirred at 80° C. for 0.75 hrs. The orange suspension was allowed to cool to RT. The viscous suspension was diluted with ether and the solid was collected by filtration and washed with ether (3×5 mL) to give 2-acetyl-N-(3-bromopyridin-4-yl)hydrazinecarbothioamide as a salmon-pink solid (1.2187 g, 91% Yield). MS (ES−) 288.9.

reactant | 3-bromo-4-isothiocyanato-pyridine | 4.650 mmol, 1 g | BrC=1C=NC=CC1N=C=S | C6H3BrN2S
reactant | acetylhydrazine | 4.650 mmol, 344.5 mg | C(C)(=O)NN | C2H6N2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 2-acetyl-N-(3-bromopyridin-4-yl)hydrazinecarbothioamide | 1.2187 g, 91% Yield | C(C)(=O)NNC(NC1=C(C=NC=C1)Br)=S | C8H9BrN4OS
